* C:\Users\David\Desktop\UTN\4°\TC2\UTN_BA_TC2\TS10\TS10_Cauer_2_LTSpice.asc
L1 N002 0 {5/4}
L2 N003 0 5
C1 N002 N001 {2/3}
C2 N003 N002 {2/25}
V1 N001 0 AC 1 0
.ac dec 1000 {1e-4} {1e3}
.backanno
.end
