* C:\Users\David\Desktop\UTN\4°\TC2\UTN_BA_TC2\TS11\TS11_Ejercicio_1_LTSpice.asc
Ra N002 N001 {8/15}
Rb N003 N002 {884/1005}
Rc 0 N003 {67/84}
R1 N004 N002 {52/75}
R2 N005 N003 {4368/4489}
C1 N004 0 {25/104}
C2 N005 0 {4489/15288}
V1 N001 0 AC 1 0
.ac dec 1000 {1e-4} {1e3}
.backanno
.end
