* C:\Users\David\Desktop\UTN\4°\TC2\UTN_BA_TC2\TS6\TS6_LTSpice_Circuito_Sugerido.asc
R2 N001 0 1
R12 N005 N001 0.8889
R22 N002 N005 1
R32 Vo N002 1
R52 N006 N004 1.1250
C2 N001 N004 1 Rser=0
C42 N006 Vo 1 Rser=0
XU22 N002 N006 N005 opamp Aol=100K GBW=10Meg
XU21 N002 N001 Vo opamp Aol=100K GBW=10Meg
V1 Vi 0 AC 1 0 Rser=0
XU12 N004 N003 N004 opamp Aol=100K GBW=10Meg
C1 N003 Vi 1 Rser=0
R1 N003 0 1
.lib opamp.sub
.ac dec 1000 {1/2/pi/100} {1/2/pi*100}
.backanno
.end
