* C:\Users\David\Desktop\UTN\4°\TC2\UTN_BA_TC2\TS5\TS5_LTSpice_Red_Pasiva_SOS_1.asc
V1 Vin_1 0 AC 1
R1 Vout_1 Vin_1 {R}
C1 Vout_1 0 {C}
L1 Vout_1 0 {L}
.ac dec 1000 {w0/2/pi/100} {w0/2/pi*100}
.lib opamp.sub
.param Q= 8.0128
.param ww= 1
.param w0= ww
.param C= 1
.param wz= C
.param R= {Q/wz/w0}
.param L= {1/wz/w0**2}
#.param= 2*pi*22e3
#.param C= 1/wz/ww
.backanno
.end
