* C:\Users\David\Desktop\UTN\4°\TC2\UTN_BA_TC2\TS5\TS5_LTSpice_Red_Pasiva_SOS_3.asc
V3 Vin_3 0 AC 1
R3 Vout_3 Vin_3 {R}
C3 Vout_3 0 {C}
L3 Vout_3 0 {L}
.ac dec 1000 {w0/2/pi/100} {w0/2/pi*100}
.lib opamp.sub
.param Q= 15.9558
.param ww= 1
.param w0= 0.9031*ww
.param C= 1
.param wz= C
.param R= {Q/wz/w0}
.param L= {1/wz/w0**2}
#.param= 2*pi*22e3
#.param C= 1/wz/ww
.backanno
.end
