* C:\Users\David\Desktop\UTN\4°\TC2\UTN_BA_TC2\TS5\TS5_LTSpice_Red_Pasiva_SOSs_Acopladas.asc
R1 N005 N004 {R1}
C1 N005 0 {C1}
L1 N005 0 {L1}
R2 N003 N002 {R2}
C2 N003 0 {C2}
L2 N003 0 {L2}
R3 Vout N001 {R3}
C3 Vout 0 {C3}
XU1 N002 N005 N002 opamp Aol=100K GBW=10Meg
XU2 N001 N003 N001 opamp Aol=100K GBW=10Meg
L3 Vout 0 {L3}
V1 Vin 0 AC 1
XU3 N006 Vin N004 opamp Aol=100K GBW=10Meg
R4 N004 N006 10.75
R5 0 N006 1
.ac dec 1000 {w01/2/pi/100} {w01/2/pi*100}
.lib opamp.sub
.param Q1= 8.0128
.param ww1=1
.param w01= ww1
.param C1= 1
.param wz1= C1
.param R1= {Q1/wz1/w01}
.param L1= {1/wz1/w01**2}
.param Q2= 15.9568
.param ww2= 1
.param w02= 1.1074*ww2
.param C2= 1
.param wz2= C2
.param R2= {Q2/wz2/w02}
.param L2= {1/wz2/w02**2}
.param Q3= 15.9558
.param ww3= 1
.param w03= 0.9031*ww3
.param C3= 1
.param wz3= C3
.param R3= {Q3/wz3/w03}
.param L3= {1/wz3/w03**2}
.backanno
.end
