* C:\Users\David\Desktop\UTN\4°\TC2\UTN_BA_TC2\TS10\TS10_Remocion_Parcial_LTSpice.asc
C2 N003 N002 2
C3 N004 N002 {1/3}
L2 0 N003 {1/2}
L3 0 N004 1
V1 N001 0 AC 1 0
C1 N002 N001 1
.ac dec 1000 {1e-4} {1e3}
.backanno
.end
